US06391874B1
(1-(2-Fluorobenzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 1-(2-fluorobenzyl)-1H-indazol-5-ylamine and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.70(1H,s), 9.45(1H,s), 8.90(1H,s), 8.60(1H,d), 8.20(1H,s), 8.13(1H,s), 7.85(1H,d), 7.70(1H,d), 7.38(1H,m), 7.24 (1H,m), 7.17 (3H,m), 5.76(2H,s), 2.65 (3H,s); m/z (M+1+) 452.

reactant | 1-(2-fluorobenzyl)-1H-indazol-5-ylamine | FC1=C(CN2N=CC3=CC(=CC=C23)N)C=CC=C1 | C14H12FN3
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (1-(2-Fluorobenzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.FC1=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C)C=CC=C1 | InChI=1S/C25H18FN7O.ClH/c1-15-31-32-25(34-15)16-6-8-22-20(11-16)24(28-14-27-22)30-19-7-9-23-18(10-19)12-29-33(23)13-17-4-2-3-5-21(17)26;/h2-12,14H,13H2,1H3,(H,27,28,30);1H
